US05510376
A mixture of 0.83 g of 2-amino-1-(m-chlorophenyl)ethanol, 1.0 g of 6,7-dimethoxy-2-tetralone and 0.85 g of sodium cyanoborohydride in 25 ml of methyl alcohol is stirred at room temperature for 18 hours. The reaction mixture is poured into water and a product residue is isolated. This residue is purified by flash chromatography to give 0.80 g of 3-chloro-α- (1,2,3,4-tetrahydro-6,7-dimethoxy)naphthalen-2-yl)amino!methyl!benzenemethanol, which is in turn converted to 5-(3-chlorophenyl-3-(1,2,3,4-tetrahydro-6,7-dimethoxy)naphthalen-2-yl)-2-oxazolidinone. Subsequent reaction with boron tribromide in methylene chloride as in Example 1, Step A, gives 5-(3-chlorophenyl)-3-(1,2,3,4-tetrahydro-6,7-dihydroxynaphthalen-2-yl)-2-oxazolidinone as a solid, mp 195° C. (dec.).

reactant | 2-amino-1-(m-chlorophenyl)ethanol | 0.83 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | 6,7-dimethoxy-2-tetralone | 1.0 g | COC=1C=C2CCC(CC2=CC1OC)=O | C12H14O3
reactant | sodium cyanoborohydride | 0.85 g | C(#N)[BH3-].[Na+]
reactant | benzenemethanol | C1(=CC=CC=C1)CO | C7H8O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methyl alcohol | 25 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-(3-chlorophenyl)-3-(1,2,3,4-tetrahydro-6,7-dihydroxynaphthalen-2-yl)-2-oxazolidinone | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C1CC2=CC(=C(C=C2CC1)O)O | C19H18ClNO4
